* BVM_LOAD_QB_MATRIX_V1: physical 13ps 8x500 logical1_no_read_control
* canonical BVM -> series JSL -> QB; no magnetic coupling, JTL, or T1
.include ../../../jjmit.cir
.include ../../../bvm_cell.cir
XBVM1 WL1 BL1 SE1 SL1 BVM
B_LD1  SL1     njsl1   jjmit area=5
B_LD2  njsl1   njsl2   jjmit area=5
B_LD3  njsl2   njsl3   jjmit area=5
B_LD4  njsl3   njsl4   jjmit area=5
B_LD5  njsl4   njsl5   jjmit area=5
B_LD6  njsl5   njsl6   jjmit area=5
B_LD7  njsl6   njsl7   jjmit area=5
B_LD8  njsl7   IN      jjmit area=5
.include ../../../bq_cell.cir
XBQ IN OUT IBIAS BQ
R_LOAD OUT 0 10
I_IBIAS 0 IBIAS pwl(0p 0 1p 35u 2p 35u 170p 35u)
I_WL1 0 WL1 pwl(0p 0 10p 0 11p +100U 20p +100U 21p 0 95p 0 96p 0 109p 0 110p 0 170p 0)
I_BL1 0 BL1 pwl(0p 0 10p 0 11p +100U 20p +100U 21p 0 170p 0)
I_SE1 0 SE1 pwl(0p 0 95p 0 96p 0 109p 0 110p 0 170p 0)
.tran 0.0125p 170p
.print P(B_JM1|XBVM1) V(B_JM1|XBVM1) P(B_JM2|XBVM1) V(B_JM2|XBVM1)
.print P(B_JS1|XBVM1) V(B_JS1|XBVM1) P(B_JS2|XBVM1) V(B_JS2|XBVM1)
.print V(N6|XBVM1) V(SL1) V(njsl7)
.print I(L_PSL|XBVM1) I(L_SL|XBVM1) I(B_LD1) I(B_LD8)
.print P(B_LD1) V(B_LD1) I(B_LD1)
.print P(B_LD2) V(B_LD2) I(B_LD2)
.print P(B_LD3) V(B_LD3) I(B_LD3)
.print P(B_LD4) V(B_LD4) I(B_LD4)
.print P(B_LD5) V(B_LD5) I(B_LD5)
.print P(B_LD6) V(B_LD6) I(B_LD6)
.print P(B_LD7) V(B_LD7) I(B_LD7)
.print P(B_LD8) V(B_LD8) I(B_LD8)
.print I(I_WL1) I(I_BL1) I(I_SE1)
.print P(BJs|XBQ) V(BJs|XBQ) I(BJs|XBQ)
.print P(BJL1|XBQ) V(BJL1|XBQ) I(BJL1|XBQ)
.print P(BJL2|XBQ) V(BJL2|XBQ) I(BJL2|XBQ)
.print V(IN) V(OUT) I(Lin|XBQ) I(L0|XBQ) I(L1|XBQ) I(L2|XBQ)
.print I(RB|XBQ) I(RJ1|XBQ) I(RJ2|XBQ) I(R_LOAD) I(I_IBIAS)
.end
